US09029560B2
Preparation of 1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)ethanol (C24)
To 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzaldehyde (8.49 g, 25.5 mmol) in anhydrous tetrahydrofuran (102 mL) in dry ice/acetone bath was added methylmagnesium bromide (1 M in butyl ether, 25.5 mL, 25.5 mmol). The solution was then warmed to room temperature and stirred overnight. The reaction was acidified with hydrogen chloride (2 N, 10 mL) until pH 2, diluted with water, and extracted with ethyl acetate (2×). The organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated to afford the title compound as an orange liquid (8.80 g, 94%): 1H NMR (400 MHz, CDCl3) δ 8.55 (s, 1H), 8.27-8.11 (m, 2H), 7.90-7.68 (m, 2H), 7.49 (d, J=8.1 Hz, 2H), 7.39 (d, J=8.3 Hz, 2H), 4.98 (q, J=6.5 Hz, 1H), 1.54 (d, J=6.5 Hz, 3H); 19F NMR (376 MHz, CDCl3) δ −58.03; ESIMS m/z 350 ([M+H]+).

reactant | 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzaldehyde | 25.5 mmol, 8.49 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=O)C=C1)(F)F | C16H10F3N3O2
reactant | methylmagnesium bromide | 25.5 mmol, 1 M, 25.5 mL | C[Mg]Br
reactant | hydrogen chloride | 2 N, 10 mL | Cl | ClH
solvent | tetrahydrofuran | 102 mL | O1CCCC1 | C4H8O
solvent | dry ice acetone | C(=O)=O.CC(=O)C
solvent | water | O | H2O
product | 1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)ethanol | 8.80 g, 94% | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)C(C)O)(F)F | C17H14F3N3O2
